US07897595B2
A mixture of 2-methoxy-5-methyl-7-(trifluoroacetyl)-3-vinyl-6,7,8,9-tetrahydro -5H-pyrido[2,3-d]azepine (52 mg, 166 μmol), 5% Pd/C (20 mg), and MeOH (20 ml) was stirred under H2 (1 atm) for 15 h. Filtration and concentration of the filtrate in vacuo yielded 36.0 mg (69%) of 3-ethyl-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. MS (ESI) m/z 317.3. A mixture of 3-ethyl-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine (36.0 mg, 114 μmol), K2CO3 (100 mg), MeOH (5 ml) and H2O (1 ml) was heated to reflux for 10 min. The reaction mixture was concentrated in vacuo and the resulting residue was purified by column chromatography to yield 10.2 mg (40%) of 3-ethyl-2-methoxy-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. 1H-NMR (MeOH-d4) δ 7.30 (s, 1H), 3.89 (s, 3H), 3.17 (m, 5H), 3.06 (m, 1H), 2.87 (m, 1H), 2.57 (m, 2H), 1.31 (d, 3H), 1.15 (t, 3H) ppm.

reactant | 2-methoxy-5-methyl-7-(trifluoroacetyl)-3-vinyl-6,7,8,9-tetrahydro -5H-pyrido[2,3-d]azepine | 166 μmol, 52 mg | COC=1C(=CC2=C(CCN(CC2C)C(C(F)(F)F)=O)N1)C=C | C15H17F3N2O2
catalyst | Pd/C | 20 mg | [Pd] | Pd
solvent | MeOH | 20 ml | CO | CH4O
product | 3-ethyl-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | 36.0 mg, 69% | C(C)C1=CC2=C(CCN(CC2C)C(C(F)(F)F)=O)N=C1OC | C15H19F3N2O2
